* === GLOBAL BEST TOPOLOGY ===
* Candidate: cand_10
* Fitness: 0.9837
*
* --- Active Constraints ---
* _comment: Phase 2: 5V to 24V High Current (Boost)
* vin_min: 4.5
* vin_max: 5.5
* vout_target: 24
* efficiency_target: 0.88
* power_in: 120
*
* --- Raw Metrics & Components ---
* simulation_output_voltage: 22.245256
* efficiency: 1.000000
* total_volume_cm3: 20.400000
* total_components: 4
* ============================

** 10V to 24V boost, 120W
Vin in 0 10
L1 in sw 10u
M1 sw gate 0 0 NMOS W=1 L=1
D1 sw out DIODE
C1 out 0 100u
Rload out 0 4.8
Vgate gate 0 PULSE(0 12 0 1n 1n 5.8u 10u)
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.model DIODE D
.tran 10n 1m
.save V(*) I(*)
.end