* === GLOBAL BEST TOPOLOGY ===
* Candidate: cand_4
* Fitness: 0.7348
*
* --- Active Constraints ---
* _comment: Phase 3: 277V Lighting to 3.3V Logic (Buck)
* vin_min: 250
* vin_max: 300
* vout_target: 3.3
* efficiency_target: 0.92
* power_in: 200
*
* --- Raw Metrics & Components ---
* simulation_output_voltage: 6.558227
* efficiency: 0.044990
* total_volume_cm3: 10000.000000
* total_components: 4
* ============================

* 250V to 3.3V Buck, 200W
Vin in 0 250
M1 in gate1 sw1 sw1 NMOS W=1 L=1
D1 0 sw1 DIODE
L1 sw1 out 10u
C1 out 0 220u
Rload out 0 0.0545
Vgate1 gate1 sw1 PULSE(0 12 0 1n 1n 5.8u 10u)
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.model DIODE D
.tran 10n 1m
.save V(*) I(*)
.end