* 12V to 5V async buck, 100W, 100kHz
* D=5/12=0.4167, Rload=V^2/P=25/100=0.25
Vin in 0 12
M1 in gate sw 0 NMOS W=1 L=1
D1 0 sw DIODE
L1 sw out 100u
C1 out 0 470u
Rload out 0 0.25
Vgate gate 0 PULSE(0 12 0 1n 1n 4.17u 10u)
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.model DIODE D
.tran 1n 5m
.end
