* 240V to 380V SEPIC, 450W, 100kHz (boost-mode: Vin < Vout)
* D=380/(380+240)=0.613, t_on=6.13u, Rload=380^2/450=321
Vin in 0 240
L1 in sw1 100u
M1 sw1 gate 0 0 NMOS W=1 L=1
C1 sw1 sw2 22u
L2 sw2 0 100u
D1 sw2 out DIODE
C2 out 0 100u
Rload out 0 321
Rbleed sw1 0 1Meg
Rbleed1 sw2 0 1Meg
Vgate gate 0 PULSE(0 12 0 1n 1n 6.13u 10u)
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.model DIODE D
.tran 1n 5m
.end
