* 220V to 3.3V synchronous buck, 100W
* D=3.3/220=0.015, t_on=150n
Vin in 0 220
M1 in gate sw 0 NMOS W=1 L=1
M2 sw gate2 0 0 NMOS W=1 L=1
L1 sw out 22u
C1 out 0 220u
Rload out 0 0.109
Rbleed sw 0 1Meg
Vgate  gate  0 PULSE(0 12 0    1n 1n 150n  10u)
Vgate2 gate2 0 PULSE(0 12 300n 1n 1n 9.5u  10u)
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.tran 1n 5m
.end
