* 10V to 220V boost, 250W, 50kHz
* D=1-10/220=0.955, t_on=19.1u for T=20u
Vin in 0 10
L1 in sw 220u
M1 sw gate 0 0 NMOS W=1 L=1
D1 sw out DIODE
C1 out 0 220u
Rload out 0 193.6
Rbleed sw 0 1Meg
Vgate gate 0 PULSE(0 12 0 1n 1n 19.1u 20u)
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.model DIODE D
.tran 1n 5m
.end
