* 5V to 208V boost, 100W, 100kHz
* D=1-5/208=0.976, t_on=9.76u, Rload=208^2/100=432
Vin in 0 5
L1 in sw 100u
M1 sw gate 0 0 NMOS W=1 L=1
D1 sw out DIODE
C1 out 0 100u
Rload out 0 432
Rbleed sw 0 1Meg
Vgate gate 0 PULSE(0 12 0 1n 1n 9.76u 10u)
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.model DIODE D
.tran 1n 5m
.end
