* 280V to 380V SEPIC, 450W
* D=Vout/(Vin+Vout)=576m, t_on=5.76u
* L1 input, M1 grounds sw1, C1 coupling sw1<->sw2, L2 sw2->0, D1 sw2->out
Vin in 0 280
L1 in sw1 220u
M1 sw1 gate 0 0 NMOS W=1 L=1
C1 sw1 sw2 22u
L2 sw2 0 220u
D1 sw2 out DIODE
C2 out 0 220u
Rload out 0 321
Rbleed sw1 0 1Meg
Rbleed1 sw2 0 1Meg
Vgate gate 0 PULSE(0 12 0 1n 1n 5.76u 10u)
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.model DIODE D
.tran 1n 5m
.end
