* 220V to 12V sync buck (M2 replaces D1), 300W
* D=54.5m, Rload=480m; dead time ~5% each end
Vin in 0 220
M1 in gate sw 0 NMOS W=1 L=1
M2 sw gate2 0 0 NMOS W=1 L=1
L1 sw out 100u
C1 out 0 220u
Rload out 0 480m
Rbleed sw 0 1Meg
Vgate  gate  0 PULSE(0 12 0 1n 1n 545n 10u)
Vgate2 gate2 0 PULSE(0 12 1.05u 1n 1n 8.75u 10u)
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.tran 1n 5m
.end
